Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atenolol / lisinopril / Actos
 
Attending: ___.
 
Chief Complaint:
S/p MVA
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ s/p MVA vs pole, airbags deployed, no starring of 
windshield.  Found outside vehicle when EMS arrived.  Unclear 
LOC.  Pt has no memory of event, but states that he was at ___ 
this am for stress test which was aborted due to elevated blood 
pressure.  He last remembers driving home from work, then waking
in the hospital.  He complains of pain to his left ribcage.  The 
patient is taking coumadin for "poor circulation in my legs".
 
Past Medical History:
Diabetes, Hypertension, Hyperlipidemia, ESRD, peritoneal
dialysis currently undergoing workup for transplant, OSA,
ulcerative colitis, BPH, glaucoma, retinopathy 
Hospitalized in ___ after episode of hyperglycemia to
850's - he reportedly had a seizure during that admission

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission exam: 
O: BP: 198/95  HR: 76
Gen: Elderly male, lying comfortably on stretcher.  
HEENT: Normocephalic, small area of edema/ecchymosis superior to
left eyebrow
Pupils: PERRL 3mm-2mm        EOMI
Neck: Supple.
Extrem: Warm and well-perfused. Lacerations to left thigh, shin
and abrasion to left shin.  Small, scattered ecchymoses and
abrasions.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.  Participates in exam, follows commands, provides 
history
with difficulty.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Discharge exam: 
VS: 97.7 166/81 81 20 97%RA 
General: Alert, oriented, NAD
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheeze/crackles
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, moderately distended, (+) bowel 
sounds in lower quadrants
Ext: WWP, 2+ pulses, no clubbing, cyanosis or edema 
Neuro:  AAOx3, no asterixis, 

 
Pertinent Results:
ADMISSION
___ 05:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-300 
GLUCOSE-150 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-NEG
___ 04:39PM   GLUCOSE-167* LACTATE-1.6 NA+-136 K+-4.9 
CL--95* TCO2-27
___ 04:39PM   HGB-10.5* calcHCT-32 O2 SAT-95 CARBOXYHB-2 
MET HGB-0
___ 04:39PM   freeCa-0.92*
___ 04:29PM   ALT(SGPT)-25 AST(SGOT)-34 CK(CPK)-534* ALK 
PHOS-55 TOT BILI-0.2
___ 04:29PM   LIPASE-32
___ 04:29PM   CK-MB-11* MB INDX-2.1
___ 04:29PM   cTropnT-0.15*
___ 04:29PM   ALBUMIN-3.5
___ 04:29PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:29PM   WBC-10.7* RBC-2.78* HGB-UNABLE TO  HCT-34.0* 
MCV-102* MCH-UNABLE TO  MCHC-UNABLE TO  RDW-18.3* RDWSD-50.8*
___ 04:29PM   ___ PTT-32.8 ___

DISCHARGE:
___ 06:05AM BLOOD WBC-8.7 RBC-2.81* Hgb-8.5* Hct-26.8* 
MCV-95 MCH-30.2 MCHC-31.7* RDW-15.6* RDWSD-53.9* Plt ___
___ 06:05AM BLOOD ___ PTT-27.3 ___
___ 06:05AM BLOOD Glucose-191* UreaN-62* Creat-10.4* Na-136 
K-4.8 Cl-93* HCO3-27 AnGap-21*
___ 07:55AM BLOOD CK-MB-3 cTropnT-0.15*
___ 06:05AM BLOOD Calcium-9.0 Phos-7.3* Mg-2.0

MICRO:
___ 7:50 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      REACTIVE. 
      Reference Range: Non-Reactive. 

   QUANTITATIVE RPR (Final ___: 
      REACTIVE AT A TITER OF 1:2. 
      Reference Range: Non-Reactive. 

STUDIES:
___:
Cardiac perfusion: IMPRESSION:
1. Normal myocardial perfusion.
2. Normal left ventricular cavity size and systolic function.
Compared with prior study of ___, there is no significant 
change.

CT head w/o contrast: IMPRESSION: 
1.  Punctate hyperdensity along the right frontoparietal 
convexity may
represent a small amount of extra-axial hemorrhage versus 
artifact.  No
appreciable mass effect or intracranial edema.  Consider 
follow-up CT head for further assessment.
2.  Right frontal subgaleal hematoma without underlying skull 
fracture.
3.  Moderate age related involutional changes and evidence of 
chronic small
vessel ischemic disease.

CT Torso: IMPRESSION:
1. Acute left third, fifth and sixth rib fractures.  No 
pneumothorax. 
2. Focal widening of the intervertebral disc space at T10-T11 
anteriorly.  
This raises concern for other underlying ligamentous injury, the 
acuity of 
which is uncertain. 
3. Moderate amount of simple free intraperitoneal fluid which 
may be due to patient's peritoneal dialysis.  No other findings 
to suggest acute 
intra-abdominal injury. 
4. Hyperdense lower pole left renal lesion 

EEG (___):
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of mild diffuse background slowing, indicative of 
a mild encephalopathy, which is nonspecific with regard to 
etiology. No focal, lateralizing or epileptiform discharges are 
present. Compared with the prior day's recording, the posterior 
dominant rhythm is somewhat more well-sustained, indicative of 
improving encephalopathy 

 
Brief Hospital Course:
___ M PMHx significant for ESRD on PD undergoing w/u for 
transplant, HTN, DM, HLD, Ulcerative Colitis, BPH, h/o DVT on 
Coumadin initially presenting ___ MVC on ___ w/etiology c/f 
syncope found to have rib fractures and extra-axial hemorrhage 
s/p eval by neurosurg and was admitted to ___ w/hospital course 
c/b refractory HTN. Transferred to medicine for syncope 
evaluation, management of ESRD on PD, HTN.

x) Extra-axial hemorrhage, multiple left-sided rib fractures: 
His GCS was 15 on admission but there was a small hyperdensity 
on CT head concerning for possible bleed, so neurosurgery was 
consulted. Head CT repeat was waived since he was awake and 
alert and we could follow his neurological exam, which remained 
intact throughout his course. Per neurosurgery, his warfarin was 
held. His CT c spine was negative and his C-collar was cleared 
in the ICU. There was some anterior widening on T10-T11, but no 
tenderness on exam so an MRI was not pursued to rule out 
ligamentous injury. He was closely monitored with no change in 
neuro status. He was discharge on subcut heparin with plan to 
follow up with his ___ clinic as an outpatient. 

x) Syncope: unclear etiology. Per patient's description, he had 
no memory of approx. 10minutes leading up to the accident and 
does not remember the accident itself. Although it was 
originally thought that the patient was expulsed from the car, 
review of video of the scene showed the patient getting out of 
the care before collapsing. Differential included hypoglycemia 
given patient was NPO for cardiac testing although patient 
states he decreased his nighttime insulin and had a donut after 
his test vs hyperglycemia given donut vs hypertensive 
encephalopathy given patient was >200 SBP at cardiac testing vs 
seizure given late latent syphilis vs medication-induced given 
patient does not feel he received the "reversing medication at 
the end of a stress test" although review of the record shows 
amophylline was administered. He was monitored on tele with no 
events. He had an EEG which showed no seizure activity. Patient 
was noted to be hypoglycemic in AM on home dosing so his ___ 
lantus was decreased to 26U (from 30U). In addition, while in 
the TICU his blood pressure was extremely difficult to control, 
requiring the addition of nifedipine and IV hydralazine PRN. On 
the floor patient was restarted on home medications and was 
normotensive. Given overall negative work-up, patient was 
instructed to not drive a car for at least 6 months and to 
obtain clearance by his PCP. He will follow-up with his PCP as 
an outpatient. 

x) ESRD/PD, currently being w/u for transplant: Patient uses 
cycler at home with 6 exchanges with 2.5% dextrose. In hospital 
renal dialysis was consulted. He was continued on his home PD 
schedule, was on a strict bowel regimen with lactulose, 
senna/Colace, and miralax, and continued on home nephrocaps, 
calcitriol, and sevelamer.

x) HTN: As above, patient's BP was difficult to control while in 
TICU, possibly ___ to not receiving normal PD. However, evidence 
of uncontrolled HTN as outpatient given SBP >200 recorded during 
stress test. Per renal, goal SBP 140-160, and BP should not be 
lowered too quickly. On the floor he was continued on his home 
labetalol, Lasix, losartan, clonidine with stabilization of BPs. 


x) DM, type 2: As above, patient was noted to have low fasting 
fingersticks on home 30u lantus. This was decreased to 26u with 
no further episodes of hypoglycemia. He was maintained on ISS 
while in hospital. 

# Hx DVT: unclear if provoked, thought to be ___ to 
thrombophlebitis during previuos admission, and was on Coumadin 
as outpatient. Per neurosugrery recommendations, his Coumadin 
was held in hospital given small head bleed. Given risk of clot, 
patient was started on subcut heparin. He will follow-up with 
his ___ clinic x1 week after injury (___) to resume his 
Coumadin. 

Transitional Issues:
# CODE:  Full (confirmed by ___
# CONTACT:  ___ (wife) ___
[] Epogen injection was planned for ___ not given in 
hospital
[] RPR reactive at titer of 1:2, continue to monitor 
[] Coumadin held in setting of extra-axial hemorrhage, on subcut 
heparin with plan to restart ___ with ___ 
___
[] BP was difficult to control in hospital and he was 
transiently on nifedipine; transitioned back to home meds and 
was in 140s/60s. 
[] CT A/P showed "Hyperdense lower pole left renal lesion for 
which dedicated imaging is suggested, preferably by multiphasic 
CT." - needs follow-up imaging 
[] Patient was hypoglycemic in AM on home 30U lantus -> 
decreased dose to 26U, continue prandial 4U lispro. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
___  MD to order daily dose PO DAILY16 
2. Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Losartan Potassium 50 mg PO BID 
5. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 
6. CloniDINE 0.3 mg PO BID 
7. Pantoprazole 40 mg PO Q24H 
8. Labetalol 400 mg PO TID 
9. Glargine 30 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
10. HydrALAzine 50 mg PO Q6H 
11. Calcium Acetate ___ mg PO TID W/MEALS 
12. Simvastatin 20 mg PO QPM 
13. Docusate Sodium 100 mg PO BID 
14. Nephro-Vite Rx (vit B cmplx ___ C-biotin) ___ 
mg-mg-mcg oral DAILY 
15. Gentamicin 0.1% Cream 1 Appl TP Frequency is Unknown 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. HydrALAzine 50 mg PO Q6H 
3. CloniDINE 0.3 mg PO BID 
4. Glargine 26 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
5. Labetalol 400 mg PO BID 
6. Losartan Potassium 50 mg PO BID 
7. Pantoprazole 40 mg PO Q24H 
8. Simvastatin 20 mg PO QPM 
9. Acetaminophen 1000 mg PO Q8H 
Please do not take >4gm Tylenol/24 hours due to risk of liver 
toxicity. 
10. Heparin 5000 UNIT SC BID 
Please continue this medication and follow-up with your 
___.  
RX *heparin, porcine (PF) 5,000 unit/0.5 mL 1 injection SC twice 
a day Disp #*4 Syringe Refills:*0
11. Lactulose 30 mL PO Q12H:PRN constipation 
RX *lactulose 20 gram/30 mL 30 mL by mouth BID PRN Refills:*0
12. Calcium Acetate ___ mg PO TID W/MEALS 
13. FoLIC Acid 1 mg PO DAILY 
14. Gentamicin 0.1% Cream 1 Appl TP DAILY 
Apply to your PD catheter 
15. Nephro-Vite Rx (vit B cmplx ___ C-biotin) ___ 
mg-mg-mcg oral DAILY 
16. Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY 
17. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Syncope
-Rib fractures
-Extra-axial hemorrhage

SECONDARY DIAGNOSES:
-HTN
-ESRD on PD
-DMII

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a car accident during 
which you lost consciousness. You were found to have rib 
fractures and concern for a small bleed in your head. You were 
evaluated by the Neurosurgery team who felt no interventions 
were needed and you were monitored closely. You should continue 
to take Tylenol ___ every ___ hours as needed for your pain. 
In addition, due to concern for bleed your Coumadin was held. 
You should continue to give yourself injections with heparin and 
follow-up with your ___ clinic to restart your 
Coumadin this ___. 

Because it was not clear why you lost consciousness, a full 
work-up for potential causes was performed. You had an EEG to 
monitor your brain which was normal and showed no evidence of 
seizure activity. Your heart was monitored on telemetry which 
showed no arrhythmias. Your blood sugars were monitored closely 
and your blood pressure was controlled with your home 
medications. It is important to check your blood sugars before 
every meal because you had some low sugars in the hospital. Your 
nighttime dose of lantus was decreased to 26U. If your sugars 
are <70 before meals, please do not give yourself your 4U lispro 
at that time. Because of the unknown cause of this episode, it 
is important you do not drive a car for at least 6 months given 
the high risk of a dangerous accident. After that time, you 
should follow-up with your primary care doctor for clearance.  

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___